Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.88646363835
[C:1]/[C:2](=[C:3](/[H:4])[O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]=[C:2]([C:3]([H:4])=[O:5])[C:7]([H:8])([H:9])[O:10][H:11].[H:6],1.7140314426499998
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[O:11][H:12]>>[H:9].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][O:11][H:12],2.25262551902
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7],4.34227325146
[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.61155837714
[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:4][H:5],2.42366046118
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[O:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-0.548689132206
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[O:7][H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.45905119444
[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.76161783847
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:3],4.96711820801
[H:1][C:2][O:3][C:4]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2].[O:3]=[C:4]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],3.33600966041
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])=[C:8][O:9][H:10],-0.4089920849499999
[C:3]([H:4])([H:5])=[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11],-3.79131772255
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],5.10034490878
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:7]([H:8])([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],0.6831373531399999
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[O:5][H:6]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.82690689253
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],1.75319271926
[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1],4.340444197819998
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5][H:6],5.79480161278
[H:1][C:2]([H:3])[O:4][C:5]#[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-2.7629796192
[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]1([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])[H:8])=[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-0.0430890023799
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8][H:9],7.40459049952
[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-1.55878903629
[C:4]([H:5])[H:6].[H:1][C:2]([H:3])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-5.26885505476
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[O:1][O:2][C:3]([H:4])=[C:5][H:6],4.72007891077
[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-6.62509553
[H:17].[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.551666700899999
